US07384934B2
(S)-2-(3-Methoxy-propyl)-piperazine
Add 20% Pd(OH)2/C (2.15 g) to (S)-1,4-dibenzyl-2-(3-methoxy-allyl)-piperazine (3.382 g, 10.05 mmol) in ethanol (100 mL) and under hydrogen atmosphere at 40° C. over night. Filter to give the title compound: mass spectrum (m/e):159.1 (M+1).

reactant | (S)-1,4-dibenzyl-2-(3-methoxy-allyl)-piperazine | 10.05 mmol, 3.382 g | C(C1=CC=CC=C1)N1[C@H](CN(CC1)CC1=CC=CC=C1)CC=COC | C22H28N2O
solvent | ethanol | 100 mL | C(C)O | C2H6O
catalyst | Pd(OH)2/C | 2.15 g | [OH-].[OH-].[Pd+2]
product | (S)-2-(3-Methoxy-propyl)-piperazine | COCCC[C@@H]1NCCNC1 | C8H18N2O
